US07989438B2
Step 12: methyl (7R)-7-({2-[(tert-butoxycarbonyl)(methyl)amino]ethyl}amino)-14-cyclohexyl-3-(pyridin-2-ylmethoxy)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate
Methyl (7R)-7-amino-14-cyclohexyl-3-(pyridin-2-ylmethoxy)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate was dissolved in HC(OMe)3 (50 eq) and a solution of tert-butyl methyl(2-oxoethyl)carbamate (1.6 eq, prepared according to Tetrahedron 2002, 58, 1719-1737) in HC(OMe)3 (50 eq) was added. The mixture was stirred overnight at RT to allow formation of the imine. All volatiles were evaporated and the residual material was dissolved in MeOH/HOAc (0.05 M). NaCNBH3 (1 eq) was added and the mixture was stirred at RT for 1 h. Some formation of the N-formyl product was observed alongside formation of the desired product. The solution was used directly in the next step. (ES+) m/z 669 (M+H)+.

reactant | Methyl (7R)-7-amino-14-cyclohexyl-3-(pyridin-2-ylmethoxy)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | N[C@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)OC)C=CC(=C2)OCC2=NC=CC=C2 | C31H33N3O4
reactant | HC(OMe)3 | 50 eq | C(OC)(OC)OC | C4H10O3
reactant | tert-butyl methyl(2-oxoethyl)carbamate | 1.6 eq | CN(C(OC(C)(C)C)=O)CC=O | C8H15NO3
reactant | HC(OMe)3 | 50 eq | C(OC)(OC)OC | C4H10O3
reactant | NaCNBH3 | 1 eq | [BH3-]C#N.[Na+]
product | methyl (7R)-7-({2-[(tert-butoxycarbonyl)(methyl)amino]ethyl}amino)-14-cyclohexyl-3-(pyridin-2-ylmethoxy)-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | C(C)(C)(C)OC(=O)N(CCN[C@H]1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)OC)C=CC(=C2)OCC2=NC=CC=C2)C | C39H48N4O6
